US08212045B2
(S)-N-(5-(3-methoxypropylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (85 mg, 0.16 mmol) was dissolved in ethanol (5 ml) and 1M HCl (0.5 ml) was added. The mixture was heated to 70° C. and agitated 3 hours. Upon cooling, the reaction was diluted with ethyl acetate, basified with sodium carbonate solution and washed with water and brine, dried (MgSO4), filtered and evaporated. The resulting solid was dissolved in small amount of dichloromethane and treated with 1M HCl in ether. After evaporation, (S)-1-(5-(5-(3-methoxypropylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride (65 mg, 90% yield) was obtained as white solid. Mass Spectrum (apci) m/z=450.1 (M+H—HCl).

reactant | (S)-N-(5-(3-methoxypropylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 0.16 mmol, 85 mg | COCCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NC=CC2)C | C25H31N5O4S2
reactant | HCl | 1M, 0.5 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(5-(5-(3-methoxypropylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)ethane-1,2-diol hydrochloride | 65 mg, 90% yield | Cl.COCCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H](CO)O)OC=1C(=NC=CC1)C | InChI=1S/C19H23N5O4S2.ClH/c1-12-15(5-3-6-20-12)28-16-9-13(29-8-4-7-27-2)10-21-18(16)23-19-22-17(24-30-19)14(26)11-25;/h3,5-6,9-10,14,25-26H,4,7-8,11H2,1-2H3,(H,21,22,23,24);1H/t14-;/m1./s1
